US07781454B2
Step 2: 1,2,3,4-tetrahydroquinolin-5-yl acetate
In accordance with J. Org. Chem. 1978, 43 (10), 1975-1980, PtO2 (120 mg, 1.06 mmol) and concentrated HCl (20 μL) were added to a solution of quinolin-5-yl acetate (1.0 g, 5.34 mmol) in EtOH (30 mL) and the mixture was purged with N2 followed by H2. The mixture was then stirred at room temperature for 48 hours, at which point the starting material had been consumed as determined by LC-MS. The reaction mixture was then filtered through celite, and washed with MeOH, chloroform, and a small amount of TEA. The filtrate was concentrated under reduced pressure, and the resulting residue was purified on a silica gel column (10% to 80% EtOAc/hexanes) to afford the title product. LRMS (M+1)=192.3

reactant | HCl | 20 μL | Cl | ClH
reactant | quinolin-5-yl acetate | 5.34 mmol, 1.0 g | C(C)(=O)OC1=C2C=CC=NC2=CC=C1 | C11H9NO2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | PtO2 | 1.06 mmol, 120 mg | O=[Pt]=O
product | 1,2,3,4-tetrahydroquinolin-5-yl acetate | C(C)(=O)OC1=C2CCCNC2=CC=C1 | C11H13NO2
